US05597922
Synthesis of 5,7-Dimethyl-2,3,4-trihydroxyquinoline.
The procedure of Baker and Almaula, J. Org. Chem. 27:4672-74 (1962), was adapted. A mixture of 5,7-dimethylquinoline-2,3,4-trione-3-oxime (45 mg, 0.21 mmol) and 30% Pd/C (10 mg) in DMF (2 mL) and 4N HCl (2 mL) was hydrogenated at 50 psi for 12 h. A crystalline colorless solid was observed in the reaction mixture. The mixture was filtered and the solid was stirred with acetone/methanol (1:1) and filtered to remove the black catalyst. The acetone/methanol solution was added into the 1N HCl solution (10 mL) to give white crystals. It was filtered and washed with water (1×1 mL), and dried to leave 21 mg of the title compound (50%), which is pure by NMR. mp 280°-2° C. IR (KBr, cm-1): 3452, 3178, 3108, 1663, 1621, 1585. 1H NMR (DMSO-d6): δ 2.248 (s, 3H); 2.638 (s, 3H); 6.704 (s, 1H); 6.876 (s, 1H); 8.595 (s, 1H); 9.542 (s, 1H); 11.424 (s, 1H). HRMS: calcd for C11H11NO3 m/z: 205.0738; found: 205.0729. Purity:>99% by HPLC (tautomers 71.5% and 28.4%).

reactant | 5,7-dimethylquinoline-2,3,4-trione-3-oxime | 0.21 mmol, 45 mg | CC1=C2C(C(C(NC2=CC(=C1)C)=O)=NO)=O | C11H10N2O3
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | HCl | 4N, 2 mL | Cl | ClH
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 5,7-Dimethyl-2,3,4-trihydroxyquinoline | 21 mg, 50% | CC1=C2C(=C(C(=NC2=CC(=C1)C)O)O)O | C11H11NO3
